US08558001B2
The compound N-(4-(2-tert-butoxypyridin-4-yl)benzyl)-2-chloro-3,6-difluorobenzamide was re-dissolved in DCM (2 mL) and trifluoroacetic acid (2 mL) and stirred at room temperature for 1 h. The reaction mixture was concentrated in vacuum and then purified by reverse phase chromatography to afford 2-chloro-3,6-difluoro-N-(4-(2-oxo-1,2-dihydropyridin-4-yl)benzyl)benzamide.

reactant | N-(4-(2-tert-butoxypyridin-4-yl)benzyl)-2-chloro-3,6-difluorobenzamide | C(C)(C)(C)OC1=NC=CC(=C1)C1=CC=C(CNC(C2=C(C(=CC=C2F)F)Cl)=O)C=C1 | C23H21ClF2N2O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-3,6-difluoro-N-(4-(2-oxo-1,2-dihydropyridin-4-yl)benzyl)benzamide | ClC1=C(C(=O)NCC2=CC=C(C=C2)C2=CC(NC=C2)=O)C(=CC=C1F)F | C19H13ClF2N2O2
